US04283539
1,2-Dihydro-3-methyl-1-oxo-4-isoquinoline Acetic Acid
1,2-Dihydro-2-hydroxy-3-methyl-1-oxo-4-isoquinoline acetic acid (4.0 g., 17.2 mmol) dissolved in 30 ml. ethyl acetate at 0° was reacted with phosphorous trichloride (1.50 ml., 17.2 mmol). The mixture was heated at 80° for 1.5 hr then poured onto 100 g. of ice water, stirred for 16 hr and filtered yielding a light yellow crude product; 3.307 mg (89%) mp 280°-295° d. Recrystallization from acetic acid afforded analytically pure material of mp 295°-300° d.

reactant | 1,2-Dihydro-2-hydroxy-3-methyl-1-oxo-4-isoquinoline acetic acid | 17.2 mmol, 4.0 g | ON1C(C2=CC=CC=C2C(=C1C)CC(=O)O)=O | C12H11NO4
reactant | phosphorous trichloride | 17.2 mmol, 1.50 ml | P(Cl)(Cl)Cl | Cl3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2-Dihydro-3-methyl-1-oxo-4-isoquinoline Acetic Acid | CC=1NC(C2=CC=CC=C2C1CC(=O)O)=O | C12H11NO3
